US06949542B2
5-Ethoxy-[2-{3-[3-(2-isobutyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-5-ethoxy-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester (Example J6) (224 mg, 0.70 mmol) and 3-[3-(2-isobutyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K37) (247 mg, 0.70 mmol) according to the general procedure M. Obtained as an off-white solid (310 mg, 74%).

reactant | [2-amino-5-ethoxy-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | 0.70 mmol, 224 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)N)=O | C14H19F3N2O3
reactant | 3-[3-(2-isobutyl-pyridin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.70 mmol, 247 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)CC(C)C)=O | C22H27NO3
product | 5-Ethoxy-[2-{3-[3-(2-isobutyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)CC(C)C)=O)=O | C32H36F3N3O5
